US07858796B2
(169) 3-{1-[(3-{[4-(methyloxy)phenyl]oxy}propyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
Following the general procedure of example 159, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (40.0 mg, 0.087 mmol), 4-(methyloxy)phenol (124 mg, 0.87 mmol), K2CO3 (35.0 mg, 0.35 mmol) and sodium iodide (0.5 mg) were reacted to give the title compound (21.0 mg, 44%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.087 mmol, 40.0 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | 4-(methyloxy)phenol | 0.87 mmol, 124 mg | COC1=CC=C(C=C1)O | C7H8O2
reactant | K2CO3 | 0.35 mmol, 35.0 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | sodium iodide | 0.5 mg | [I-].[Na+]
product | 3-{1-[(3-{[4-(methyloxy)phenyl]oxy}propyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 21.0 mg, 44% | COC1=CC=C(C=C1)OCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C30H33N3O5S
